US07538121B2
2-Methyl-6-phenylnicotinic acid
Ethyl 2-methyl-6-phenylnicotinate (D18) (284 mg, 1.2 mmol) was treated with aq. 2M NaOH in ethanol at reflux giving the title compound as an off white solid (108 mg). MS (AP): MH+ 214, M-H+ 212.

reactant | Ethyl 2-methyl-6-phenylnicotinate | 1.2 mmol, 284 mg | CC1=C(C(=O)OCC)C=CC(=N1)C1=CC=CC=C1 | C15H15NO2
reactant | NaOH | 2M | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-Methyl-6-phenylnicotinic acid | CC1=C(C(=O)O)C=CC(=N1)C1=CC=CC=C1 | C13H11NO2
